rtlinv ckt - cascaded rtl inverters
* KNOWN GAP: nonzero transient output-start time is rejected by the dispatcher.
* This correctness test should currently fail; implement support to match the expected output.
* Expected results: bench_ngspice_rtlinv.expected.json
* Origin: benchmark/fixtures/ngspice/rtlinv/circuit.sp
.width in=72

.opt  list node lvlcod=2 noacct
* The original line is below
*.opt acct list node lvlcod=2

.dc vin 0.0 2.5 0.025
.tran 2ns 200ns
vcc 6 0 5
vin 1 0 pulse(0 5 2ns 2ns 2ns 80ns)
rb1 1 2 10k
rc1 6 3 1k
q1 3 2 0 qnd
rb2 3 4 10k
q2 5 4 0 qnd
rc2 6 5 1k
.model qnd npn(level=1 bf=50 rb=70 rc=40 ccs=2pf tf=0.1ns tr=10ns cje=0.9pf
+  cjc=1.5pf pc=0.85 va=50)
.print dc v(3) v(5)
.plot dc v(3)
.print tran v(3) v(5)
.plot tran v(3) v(5) v(1)
.end
